* E:\Dropbox\PSYNTH\Simulation\P-Channel JFET compressor.asc
R1 N002 N001 22k
R3 N005 N006 1Meg
V1 N001 0 PULSE(0 3.3 0 0 0 .001 .002)
V2 N005 0 PULSE(0 3.3 0 .3 0 .1 .2)
V3 15 0 15
V4 0 -15 15
XU1 N002 N003 15 -15 N003 AD795
R4 0 N003 10k
C1 N004 N003 220µ
R5 N004 0 100k
J1 N002 N006 0 PJF
.model NJF NJF
.model PJF PJF
.lib C:\Users\psmus\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 1 0 .01
.lib ADI1.lib
.backanno
.end
