* E:\Dropbox\PSYNTH\Simulation\arbitrary phase shifter.asc
V1 N003 0 SINE(0 3 100) AC 1
Q1 N001 N004 N005 0 NPN
R1 N005 0 10k
R2 +v N001 10k
C1 N004 N003 22µ
R3 +v N004 47k
R4 N004 0 22k
V2 +v 0 15
R5 N002 N005 10k
C2 N001 N002 33n
.model NPN NPN
.model PNP PNP
.lib C:\Users\psmus\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac oct 10 10 20k
.backanno
.end
